Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female with PMH of COPD/asthma, HFrEF
(EF 39%), CAD, PVD, HTN, HLD, with multiple recent admissions,
who presents with chest pain and dyspnea. Per patient's 
daughter,
who is at bedside, she reports that for the past few days she 
had
been feeling unwell, with back pain and increased swelling in
face and legs. She went to her PCP ___ ___ who noted some
dependent edema and recommended elevation of legs, which did not
seem to help. Then early this morning around 5am the patient
started calling out to her daughter, whom she lives with,
complaining of chest pain. She was unable to describe the chest
pain, but noted that it lasted ___ hours and did not improve
with SL nitro or albuterol nebs which the patient had at home.
The daughter then called EMS, who noted the patient to be
hypertensive and gave 125mg solumedrol as well as duonebs and
started patient on BiPAP. She also reported some dyspnea with
this episode, as well as chronic intermittent dry cough worse at
night. Denies fever, chills, abd pain, nausea, vomiting,
diarrhea. Further denies sick contacts, recent travel.

With regards to her chest pain, the patient's daughter reports
that it has been an ongoing issue for the past year. Usually
happens daily, lasts 30 minutes, improved with SL nitro and 
nebs.
This episode, however, did not improve with those interventions.
She also noted that her mother is afraid to be at home alone, 
and
often calls out for family members. This has led her daughter to
effectively stay in the house with her ___. At baseline she is
mobile about her room but does not ambulate much, AOx2 (does not
know date).

Of note, patient was recently hospitalized ___ for acute
hypoxemic respiratory failure in the setting of possible COPD 
vs.
CHF exacerbation with questionable superimposed PNA. She was
completed a prednisone taper (___) for COPD and a course of
levaquin for PNA, and was diuresed. She briefly required the ICU
for BiPAP, but was quickly transferred to the floor for further
optimization.

 
Past Medical History:
- Asthma/COPD
- CAD s/p PCI to LCx and RCA ___ and subsequent NSTEMI in ___ 
and ___ STEMI medically managed ___
- Hypertension  
- HLD
- Constipation
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood  
- s/p L eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died two days after she was born and 
she never knew her father. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: T 98.5 F, HR 78, BP 99/72, RR 16, 96% RA
GEN: lying in bed with eyes closed, NAD
EYES: sclera anicteric  
HENNT: maxillary sinuses mildly ttp b/l, dry MM
CV: RRR, S1S2, no m/r/g
RESP: end-expiratory wheezes, bibasilar crackles  
GI: soft, NTND 
EXTR: pitting edema b/l to knees
SKIN: wwp 
NEURO: somnolent but arousable to voice and answering questions
appropriately 

DISCHARGE PHYSICAL EXAM:
========================
VITALS: ___ 1124 Temp: 98,2 PO BP: 128/64 HR: 96 RR: 18 O2 
sat: 97% O2 delivery: RA 
GENERAL: Elderly female, alert and in no apparent distress,
laying in bed, appears comfortable, answers questions verbally
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate.  Face 
does not appear visibly swollen.
CV: RRR, no murmur, no S3, no S4. 2+ radial pulses bilaterally.
RESP: Bibasilar faint crackles, faint scattered expiratory 
wheezes.  Breathing is non-labored on room air.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present. 
GU: No Foley catheter
MSK: Moves all extremities, trace anterior tibial edema 
bilaterally
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to person and place only, face symmetric,
speech fluent, moves all limbs
PSYCH: Pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 09:52AM BLOOD WBC-9.0 RBC-3.37* Hgb-10.0* Hct-32.0* 
MCV-95 MCH-29.7 MCHC-31.3* RDW-14.5 RDWSD-49.9* Plt ___
___ 09:52AM BLOOD ___ PTT-30.9 ___
___ 09:52AM BLOOD Glucose-245* UreaN-14 Creat-1.2* Na-139 
K-4.6 Cl-101 HCO3-18* AnGap-20*
___ 09:52AM BLOOD CK(CPK)-71
___ 09:52AM BLOOD CK-MB-3 cTropnT-0.02* proBNP-3857*
___ 04:28AM BLOOD Calcium-8.9 Phos-4.0 Mg-2.0
___ 10:02AM BLOOD ___ pO2-108* pCO2-60* pH-7.25* 
calTCO2-28 Base XS--1 Comment-PERIPHERAL
___ 10:02AM BLOOD Lactate-2.7*
___ 10:00  FluA/B  NEGATIVE NEGATIVE 
================
DISCHARGE LABS:
___ 07:08AM BLOOD WBC-5.3 RBC-3.50* Hgb-10.4* Hct-32.0* 
MCV-91 MCH-29.7 MCHC-32.5 RDW-14.4 RDWSD-48.0* Plt ___
___ 07:08AM BLOOD Glucose-126* UreaN-21* Creat-1.3* Na-139 
K-4.5 Cl-97 HCO3-26 AnGap-16
___ 07:08AM BLOOD ALT-31 AST-19 AlkPhos-107* TotBili-0.5
================
MICROBIOLOGY:
Blood cultures x2 from ___: PENDING - no growth to date
================
IMAGING:
CXR ___:
Mild bilateral pulmonary edema has increased compared to prior.  
A basilar 
opacification may represent a combination of edema and 
atelectasis, slightly increased compared to prior.  Severe 
cardiomegaly. 

  

 
Brief Hospital Course:
Ms. ___ is a ___ female with PMH of COPD, 
asthma, HFrEF (EF 39%), CAD, PVD, HTN, HLD, with multiple recent 
admissions, who presented with chest pain
and dyspnea.  She was initially found to have PCO2 of 60, pH of 
7.25 and pO2 of 108 on VBG, with tachypnea, tachycardia, and 
increased work of breathing with prolonged expiration.  She was 
admitted to the ICU for BIPAP, but was quickly weaned off to 
room air overnight.  She received 1 dose of IV Lasix 40mg and 
also was treated with nebs.  She had subsequent improvement in 
pCO2 to 47 and pH 7.35.  Her initial respiratory distress seems 
most likely due to acute CHF exacerbation.  Upon transfer to the 
floor, she was in no respiratory distress on room air, but still 
has bibasilar
crackles, so continued on diuresis.  She had mild wheezing. 

ACUTE ISSUES: 
=============
#Respiratory distress: Resolved
#Acute on chronic HFrEF exacerbation:
Patient presented with chest pain, which has been a chronic 
issue, as well as dyspnea. She was found to be hypertensive with 
EMS.  She appeared volume overloaded on exam with bilateral 
pitting edema and bibasilar crackles initially, with CXR showing 
mildly worsened pulmonary edema with BNP (3857) up from prior 
admission.
Respiratory status improved with nitroglycerin, lowering of BP, 
and BiPAP, which also supports a diagnosis of HF exacerbation. 
Initial trop 0.02 with CK 3. No consolidation on CXR and 
afebrile without leukocytosis. She received vancomycin, 
cefepime, azithroycin in the ED, but not continued on admission 
since no evidence of pneumonia.  She was weaned off BIPAP 
overnight on ___ while in ICU.  She still has faint bibasilar 
crackles and trace lower leg edema.  She was treated with PO 
Lasix 80mg daily while on the floor, which was higher than home 
dose of 40mg daily.  She was discharged on 80mg daily, but may 
be able to go back to 40mg daily as outpatient.  She was 
discharged home with ___ to monitor weight, volume status and 
respiratory status.  She was treated with isosorbide dinitrate 
10mg TID and metoprolol 12.5mg Q6H while inpatient but put back 
on her home isosorbide mononitrate 60mg daily and metoprolol XL 
50mg daily on discharge.  Losartan was held due to initially 
elevated Creatinine but resumed on discharge.  Blood cultures 
were negative to date.

#Asthma/COPD: She had initial tachypnea to 28, with increased 
PCO2 of 60, without noted wheezing on exam.  Her initial 
presentation seems more consistent with CHF exacerbation than 
acute COPD or asthma exacerbation.  Family says she uses duonebs
QID at home.  She was treated with Duonebs Q6H plus PRN 
albuterol nebs Q6H.  On discharge she was continued on home 
medications including PRN inhaler.

#CKD: Baseline Creatinine is 1.1-1.5 and was initially at upper 
limit of baseline at 1.5, but improved to 1.3 prior to 
discharge.

#Hyponatremia: This appears to be chronic, as Na varied from 126 
to 133 over past 3 months, though was 139 on admission and again 
on discharge.

#Goals of care:
Patient with multiple recent admissions with similar complaints. 
Family is frustrated, as they do not know how to handle patient 
at home when she starts yelling out for them, which leaves them 
no choice but to bring her back to the ED. ICU team discussed 
with family and she is DNR, okay to intubate for short trial of
life saving measures.
  
CHRONIC ISSUES:  
=============== 
#CAD/PVD: Initial troponin was 0.02 then up to 0.03.  No current 
chest pain.  She was continued on Plavix 75mg daily, Apixaban 
2.5mg BID, statin.

#Elevated INR: She is on Apixaban, which typically should not 
cause this high of INR.  This is chronically elevated to 
1.2-1.6.  She has normal platelets.  She had normal LFTs back in 
___.  No obvious etiology for synthetic dysfunction.  
LFTs were unremarkable.

#HTN: SBP was up to 160s initially, but then was normotensive.  
Losartan was held due to elevated Creatinine but resumed on 
discharge.

#Chronic anemia: Baseline Hemoglobin is ___, no signs of 
active blood loss.

#Depression: Continued Mirtazapine QHS and Gabapentin 300mg BID

#Cognitive impairment/dementia: She is oriented to person and 
place at baseline per her family, so was at baseline.

#Hyperglycemia: Fasting AM glucose has been in the 200s.  A1c 
was 6.5%.  Not on medication for diabetes.

TRANSITION OF CARE ISSUES:
- She is being discharged home with ___.  She should have BMP 
checked by ___ to monitor her electrolytes and renal function.
- She may be able to decrease Lasix from 80mg back to 40mg daily 
depending on volume status.

Check if applies: [ X ] Ms. ___ is clinically stable for 
discharge today. The total time spent today on discharge 
planning, counseling and coordination of care today was greater 
than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 
2. Apixaban 2.5 mg PO BID 
3. Artificial Tears GEL 1% ___ DROP BOTH EYES Q6H 
4. Atorvastatin 80 mg PO QPM 
5. Calcium Carbonate 600 mg PO BID 
6. Clopidogrel 75 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Gabapentin 300 mg PO BID 
9. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
10. Metoprolol Succinate XL 50 mg PO DAILY 
11. Multivitamins W/minerals 1 TAB PO DAILY 
12. Omeprazole 40 mg PO DAILY 
13. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
14. Senna 8.6 mg PO QHS:PRN Constipation - First Line 
15. Furosemide 40 mg PO DAILY 
16. ketotifen fumarate (bulk) 1 drop each eye BID 
17. Losartan Potassium 25 mg PO DAILY 
18. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
19. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q2H:PRN wheezing 
20. budesonide 90 mcg/actuation inhalation TID 
21. Mirtazapine 15 mg PO QHS 

 
Discharge Medications:
1.  Furosemide 80 mg PO DAILY 
RX *furosemide 40 mg 2 tablet(s) by mouth once a day Disp #*28 
Tablet Refills:*0 
2.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever  
3.  Apixaban 2.5 mg PO BID  
4.  Artificial Tears GEL 1% ___ DROP BOTH EYES Q6H  
5.  Atorvastatin 80 mg PO QPM  
6.  budesonide 90 mcg/actuation inhalation TID  
7.  Calcium Carbonate 600 mg PO BID  
8.  Clopidogrel 75 mg PO DAILY  
9.  Docusate Sodium 100 mg PO BID  
10.  Gabapentin 300 mg PO BID  
11.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
12.  ketotifen fumarate (bulk) 1 drop each eye BID  
13.  Losartan Potassium 25 mg PO DAILY  
14.  Metoprolol Succinate XL 50 mg PO DAILY  
15.  Mirtazapine 15 mg PO QHS  
16.  Multivitamins W/minerals 1 TAB PO DAILY  
17.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
18.  Omeprazole 40 mg PO DAILY  
19.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
20.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q2H:PRN wheezing  
21.  Senna 8.6 mg PO QHS:PRN Constipation - First Line  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic systolic heart failure 
Respiratory distress
Asthma
COPD
Chronic kidney disease
Hyponatremia
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Ms. ___,

You were hospitalized with difficulty breathing, which is most 
likely due to an exacerbation of your heart failure.  You were 
treated with medication to help remove excess fluid called Lasix 
(furosemide), which will be continued when you leave the 
hospital but at a higher dose than before you came to the 
hospital. Weigh yourself every morning, call MD if weight goes 
up more than 3 lbs.  

Please follow up with your primary doctor within 1 week of 
discharge.  Recommend having your electrolytes and kidney 
function rechecked while you are on higher dose of the Lasix.  
You will have visiting nursing to help monitor your fluid level 
and breathing and can check these labs.
 
Followup Instructions:
___